US06228893B1
Benzenesulfinic acid sodium salt (3.0 g) was added to a solution containing 1.52 g of 4-methyl-2-cyclohexen-1-one and 9 ml of water. 1N Hydrochloric acid (18 ml) was added dropwise to the resulting solution. After stirring at room temperature for 24 hours, the crystals so precipitated were filtered and washed with water, isopropanol and cold ethyl ether. After recrystallization from isopropanol, 4-methyl-3-(phenylsulfonyl)-cyclohexan-1-one was obtained in the form of white crystals. Yield: 72%

reactant | Benzenesulfinic acid sodium salt | 3.0 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | 4-methyl-2-cyclohexen-1-one | 1.52 g | CC1C=CC(CC1)=O | C7H10O
reactant | Hydrochloric acid | 1N, 18 ml | Cl | ClH
solvent | water | 9 ml | O | H2O
product | 4-methyl-3-(phenylsulfonyl)-cyclohexan-1-one | Yield: 72% | CC1C(CC(CC1)=O)S(=O)(=O)C1=CC=CC=C1 | C13H16O3S
